US05032489
In a flask having its atmosphere completely displaced with nitrogen were charged 19 g of 4,4'-diiodobiphenyl, 1.31 g of bis(triphenylphosphine)palladium dichloride, 0.094 g of cuprous iodide and 500 ml of diethylamine. The temperature was elevated to 30° C. under stirring, and 11.04 g of trimethylsilylacetylene was added to the mixture, followed by allowing the mixture to react for 4.5 hours to obtain 4,4'-di(trimethylsilylethynyl)biphenyl. Hydrolysis of this product yielded 4,4'-diethynylbiphenyl.

reactant | 4,4'-diiodobiphenyl | 19 g | IC1=CC=C(C=C1)C1=CC=C(C=C1)I | C12H8I2
reactant | trimethylsilylacetylene | 11.04 g | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine)palladium dichloride | 1.31 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | diethylamine | 500 ml | C(C)NCC | C4H11N
product | 4,4'-di(trimethylsilylethynyl)biphenyl | C[Si](C)(C)C#CC1=CC=C(C=C1)C1=CC=C(C=C1)C#C[Si](C)(C)C | C22H26Si2
